US08039479B2
To a mixture of 4-Chloro-5-methyl-2-nitro-phenol (3.752 g, 20.0 mmol), 4-Hydroxy-piperidine-1-carboxylic acid tert-butyl ester (4.83 g, 24 mmol), and triphenylphosphine (6.23 g, 24 mmol) in 75 mL THF is added diisopropyl asodicarboxylate (4.73 mL, 245 mmol) in several portions at 22° C. for 1 h. The reaction is stirred at the same temperature for an additional 2 hrs. The reaction mixture is concentrated in vacuo. The residue is taken up in 50 mL ether, and let stand at 22° C. for 14 hrs. The resulting crystals are removed by filtration. The filtrate is concentrated in vacuo, and the residue is purified over a 330 g SiO2 column (ISCO) using a gradient of 20 to 40% ethyl acetate in hexanes as eluent, affording 4-(4-Chloro-5-methyl-2-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester as dark yellow viscous oil. MS (ES+); 315.1 (MH+−C4H8), 393.1 (MNa+).

reactant | 4-Chloro-5-methyl-2-nitro-phenol | 20.0 mmol, 3.752 g | ClC1=CC(=C(C=C1C)O)[N+](=O)[O-] | C7H6ClNO3
reactant | 4-Hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 24 mmol, 4.83 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 24 mmol, 6.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-(4-Chloro-5-methyl-2-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C(=C1)C)Cl)[N+](=O)[O-] | C17H23ClN2O5
